US06310099B1
To a mixture of 100 g (0.3 mol) of N-(2′-chloro-4′,6′-difluorophenyl)-N-chloroacetyl-4-methylaniline and 103 g (0.78 mol) of aluminum chloride is added 400 ml of 1,2-dichlorobenzene. The reaction is heated to 140° for 2 hours. The reaction is cooled to room temperature and added to a mixture of 100 ml of concentrated HCl and 700 ml water (cooled to 0-5° in a dry ice/acetone bath). The mixture is extracted twice with 400 ml of methylene chloride. The combined organic layers are washed with 600 ml of 3N HCl. The organic layer is stirred with 66 g of magnesium sulfate and 33 g of charcoal (DARCO G-60). The solids are filtered off and the solvents are evaporated under reduced pressure to give a tan solid which is recrystallized from ethanol to give N-(2′-chloro-4′,6′-difluorophenyl)-5-methyloxindole, mp 137-140°.

reactant | N-(2′-chloro-4′,6′-difluorophenyl)-N-chloroacetyl-4-methylaniline | 0.3 mol, 100 g | ClC1=C(C(=CC(=C1)F)F)N(C1=CC=C(C=C1)C)C(CCl)=O | C15H11Cl2F2NO
reactant | aluminum chloride | 0.78 mol, 103 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichlorobenzene | 400 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | HCl | 100 ml | Cl | ClH
solvent | water | 700 ml | O | H2O
product | N-(2′-chloro-4′,6′-difluorophenyl)-5-methyloxindole | ClC1=C(C(=CC(=C1)F)F)N1C(CC2=CC(=CC=C12)C)=O | C15H10ClF2NO
